US07420055B2
Synthesis of 4-tert-Butyl-N-[3,4-difluoro-2-(pyridine-3-carbonyl)-phenyl]-benzenesulfonamide
The title compound was prepared by the reaction of 4-t-butylbenzenesulfonyl chloride with (6-Amino-2,3-difluoro-phenyl)-pyridin-3-yl-methanone following the general procedure. MS: m/z 431.1 (M++1).

reactant | 4-t-butylbenzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | (6-Amino-2,3-difluoro-phenyl)-pyridin-3-yl-methanone | NC1=CC=C(C(=C1C(=O)C=1C=NC=CC1)F)F | C12H8F2N2O
product | 4-tert-Butyl-N-[3,4-difluoro-2-(pyridine-3-carbonyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=C(C=C1)F)F)C(=O)C=1C=NC=CC1 | C22H20F2N2O3S
